US08871756B2
4-(4-Chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide
The title compound was prepared in analogy to 4-(4-chloro-6-(trifluoromethoxy)quinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide in Example 17-1 in Scheme 6 by using 2,4-dichloro-6-methylquinoline and 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide. N-[(3-Aminooxetan-3-yl)methyl]-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine

reactant | 4-(4-chloro-6-(trifluoromethoxy)quinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)OC(F)(F)F)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H14ClF3N2O3S
reactant | 2,4-dichloro-6-methylquinoline | ClC1=NC2=CC=C(C=C2C(=C1)Cl)C | C10H7Cl2N
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | S1(CCNCC2=C1C=CC=C2)=O | C9H11NOS
reactant | N-[(3-Aminooxetan-3-yl)methyl]-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | NC1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O | C23H26N4O2S
product | 4-(4-Chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O | C19H17ClN2OS
